US07534805B2
29.1) 1-(4-benzoylphenyl)ethanone
A mixture containing 4-acetyl benzoic acid (6 g, 0.0365 mol), boronic acid (5.34 g, 0.044 mol), palladium acetate (245 mg, 0.001 mol), tricyclohexylphosphine (716 mg, 0.0025 mol) and pivalic anhydride (11.2 ml, 0.054 mol) in a volume of water-tetrahydrofuran solvents: 1.6 ml-130 ml is heated at 60° C. under argon for 20 hours. After concentration to dryness, the residue obtained is adsorbed on silica then purified by chromatography on a Biotage-type silica column (eluent: ethyl acetate-heptane: 9-1 to 8-2). A white-coloured powder is obtained.

reactant | 4-acetyl benzoic acid | 0.0365 mol, 6 g | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
reactant | boronic acid | 0.044 mol, 5.34 g | B(O)O | BH3O2
reactant | tricyclohexylphosphine | 0.0025 mol, 716 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | pivalic anhydride | 0.054 mol, 11.2 ml | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
solvent | water tetrahydrofuran | O.O1CCCC1
catalyst | palladium acetate | 0.001 mol, 245 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-(4-benzoylphenyl)ethanone | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)C(C)=O | C15H12O2
